* SpiceNetList
* 
* Exported from crap.sch at 2/24/19 5:57 PM
* 
* EAGLE Version 9.3.1 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
V_V1 VCC 0 DC 6 AC 0 
R_R3 FB VCC 75000 
V_V2 VDD 0 DC 1 AC 0 
R_R1 0 FB 15000 
R_R2 FB VDD 47000 

* --------- simulation ---------
.control
set filetype=ascii
DC V_V2 0 3 0.006 
write crap.sch.sim V(VDD) V(VCC) V(FB) I(V_V2) I(V_V1)
.endc



.END










