* SpiceNetList
* 
* Exported from mp28164-buck-boost-flashlight-driver-tester-mk-1.1.0.opamp.only.sch at 1/18/19 12:17 PM
* 
* EAGLE Version 9.2.2 Copyright (c) 1988-2018 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
C_C14 LOWPASS 0 0.000001 
R_R12 MIX1 OPAMP_OUT 47000 
R_R9 LOWPASS PWM 10000 
V_V1 VCC 0 DC 6 AC 0 
R_R11 0 MIX1 150000 
X_X2 MIX1 MIX2 VDD 0 FB OPAMP 
V_V2 VDD 0 DC 2.5 AC 0 
R_R10 OPAMP- 0 10000 
D_LED1 VCC LED- DMOD 
R_R13 MIX1 VCC 750000 
R_R14 MIX2 LOWPASS 360000 
X_X1 LED- OPAMP- VDD 0 OPAMP_OUT OPAMP 
V_V3 PWM 0 DC 0.5 AC 0 
R_R1 0 LED- .01 
R_R2 OPAMP_OUT OPAMP- 91000 

* --------- models ---------

* model file: /home/sean/eagle/projects/flashlights_are_hard/mp28164/OPAMP.mdl
* BASIC OP AMP MODEL
* Device Pins In+ In- vdd vss Vout
* vdd vss unused in this model!!
.SUBCKT opamp 1 2 vdd vss vout
*
* INPUT
RIN   1   2   1e9
*
*  AMPLIFIER STAGE: GAIN, POLE, SLEW
*   Aol=10000, fu=1000000 Hz
G1   0    10  VALUE = { 1e-2 * V(1,2)  }
R1   10   0   1e6
C1   10   0   1.59e-9
*
* 2ND POLE
G2   0 20   10 0  1e-6
R2   20       0     1e6
C2   20       0     3.3e-14
*
* 3RD POLE
G3   0 30   20 0 1e-6
R3   30       0     1e6
C3   30       0     3.3e-14
*
* OUTPUT STAGE
EBUFFER 80 0  30  0    1
ROUT 80 vout 100
.ENDS opamp


* model file: /home/sean/eagle/projects/flashlights_are_hard/mp28164/DMOD.mdl
**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D (IS=1 RS=1.9 N=2)


* --------- simulation ---------
.control
set filetype=ascii
OP
write mp28164-buck-boost-flashlight-driver-tester-mk-1.1.0.opamp.only.sch.sim
.endc



.END










