* SpiceNetList
* 
* Exported from resistors.sch at 3/3/19 9:59 PM
* 
* EAGLE Version 9.3.1 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R3 0 LEDK 0.1 
R_RL LEDA LEDK 1 
V_V1 VDD 0 DC 2.8 AC 0 
V_V2 LEDA 0 DC 3.3 AC 0 
R_R1 VDD FB 10000 
R_R2 FB LEDK 1000 

* --------- simulation ---------
.control
set filetype=ascii
DC V_V1 0 2.8 0.0056 
write resistors.sch.sim V(VDD) V(FB) V(LEDK) V(LEDA) I(V_V1) I(V_V2)
.endc



.END










